US09120749B2
tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (102 mg, 0.375 mmol) to afford the crude product (56 mg) as an off-white solid: ESI MS m/z 556 [C30H35ClFN3O4+H]+.

reactant | tert-butyl trans-4-(6-bromo-3-isobutyrylquinolin-4-ylamino)cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.375 mmol, 102 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-isobutyrylquinolin-4-ylamino]cyclohexylcarbamate | 56 mg | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H35ClFN3O4
